US06498172B1
(3-(((2-(3-Chloro-phenoxy)-ethyl)-(pyridine-3-sulfonyl)-amino)-methyl)-phenyl)-acetic acid methyl ester
To a solution of sodium hydride (60% in mineral oil, 0.016 g, 0.3996 mmol) in 2 mL DMF was added (3-((pyridine-3-sulfonylamino)-methyl)-phenyl)-acetic acid methyl ester (from Preparation 14, 0.096 g, 0.333 mmol) at 0° C. and the reaction was stirred at room temperature for 30 minutes. After cooling to 0° C., 1-(2-bromo-ethoxy)-3-chloro-benzene (from Preparation 29, 0.094 g, 0.399 mmol) was added and the reaction was stirred at room temperature overnight. The DMF was removed in vacuo. The residue was diluted with EtOAc and the organic solution was washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The product was purified by flash chromatography on silica gel (0.5% MeOH/CH2Cl2 to 2% MeOH/CH2Cl2) to afford the title compound of Step A (0.025 g). MS 475 (M+1).

reactant | sodium hydride | 0.3996 mmol, 0.016 g | [H-].[Na+]
reactant | (3-((pyridine-3-sulfonylamino)-methyl)-phenyl)-acetic acid methyl ester | 0.333 mmol, 0.096 g | COC(CC1=CC(=CC=C1)CNS(=O)(=O)C=1C=NC=CC1)=O | C15H16N2O4S
reactant | 1-(2-bromo-ethoxy)-3-chloro-benzene | 0.399 mmol, 0.094 g | BrCCOC1=CC(=CC=C1)Cl | C8H8BrClO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3-(((2-(3-Chloro-phenoxy)-ethyl)-(pyridine-3-sulfonyl)-amino)-methyl)-phenyl)-acetic acid methyl ester | 0.025 g | COC(CC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CCOC1=CC(=CC=C1)Cl)=O | C23H23ClN2O5S
